US07547680B2
3-(4-Benzyloxybutoxy)-4-hydroxybenzaldehyde
3,4-Dihydroxybenzaldehyde (0.1 g) and sodium hydride (60%, 0.064 g) were suspended in N,N-dimethylformamide (2 mL), and to the reaction mixture was added benzyl 4-bromobutylether (0.185 g) under ice-cooling. The mixture was stirred at room temperature for 17 hours. To the reaction mixture was added water, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The filtrate was concentrated under reduced pressure, and the obtained residue was purified by column chromatography on silica gel (ethyl acetate/hexane=1/3) to give the title compound (0.1 g).

reactant | 3,4-Dihydroxybenzaldehyde | 0.1 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | sodium hydride | 0.064 g | [H-].[Na+]
reactant | benzyl 4-bromobutylether | 0.185 g | C(C1=CC=CC=C1)C(CCCOCCCC(CC1=CC=CC=C1)Br)Br | C22H28Br2O
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 3-(4-Benzyloxybutoxy)-4-hydroxybenzaldehyde | 0.1 g | C(C1=CC=CC=C1)OCCCCOC=1C=C(C=O)C=CC1O | C18H20O4
